US07119205B2
4-hydroxy-3-(4-hydroxyphenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a stirred solution of 4-hydroxy-3-[4-(methoxymethoxy)phenyl]-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.1 g, 0.305 mmol) in THF (10 mL) was added 1N HCl (20 mL) in a single portion at room temperature and stirred for 16 h at room temperature. The reaction mixture was concentrated and purified by RP-HPLC to afford the title compound. MS (ESI) m/e 282.9 (M−H)+; 1H NMR (500 MHz, DMSO-d6): δ ppm 12.56 (br s, 1H), 9.45 (br s, 1H), 7.22 (d, 2H), 6.89 (s, 1H), 6.74 (d, 2H).

reactant | 4-hydroxy-3-[4-(methoxymethoxy)phenyl]-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.305 mmol, 0.1 g | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)OCOC | C16H12N2O4S
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-3-(4-hydroxyphenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)O | C14H8N2O3S
